US07220759B2
By the reaction in the same manner as in Example 1a, using N,N-diethyl-2-methylbenzamide (3.42 g) and 3-(2-hydroxymethylpiperidin-1-yl)propionitrile (1.51 g), 3-[2-(2-hydroxymethylpiperidin-1-yl)ethyl]-2H-isoquinolin-1-one (392 mg) was obtained.

reactant | N,N-diethyl-2-methylbenzamide | 3.42 g | C(C)N(C(C1=C(C=CC=C1)C)=O)CC | C12H17NO
reactant | 3-(2-hydroxymethylpiperidin-1-yl)propionitrile | 1.51 g | OCC1N(CCCC1)CCC#N | C9H16N2O
product | 3-[2-(2-hydroxymethylpiperidin-1-yl)ethyl]-2H-isoquinolin-1-one | 392 mg | OCC1N(CCCC1)CCC=1NC(C2=CC=CC=C2C1)=O | C17H22N2O2
